US06686363B2
A suspension of t-butyl 1-(2-fluoro-4-nitrophenyl)cyclopropane-1-carboxylate (110 mg) and palladium catalyst (10% on charcoal, 11 mg) in methanol (5 mL) was hydrogenated at 1 atm for 2 hours at room temperature. After filtration of the catalyst, the filtrate was concentrated in vacuo to give t-butyl 1-(4-amino-2-fluorophenyl)cyclopropane-1-carboxylate. To a solution of crude t-butyl 1-(4-amino-2-fluorophenyl)cyclopropane-1-carboxylate thus obtained in tetrahydrofuran (5 mL) was added sodium hydrogencarbonate (39 mg), water (1 mL) and benzyl chloroformate (61 L) at room temperature, and the mixture was stirred at the same temperature for 1 hour. After quenching the reaction by the addition of saturated sodium hydrogencarbonate solution, the mixture was extracted with ethyl acetate. The organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=6:1) of the residue gave t-butyl 1-(4-benzyloxycarbonylamino-2-fluorophenyl)cyclopropane-1-carboxylate. MS (EI+) m/z: 385 (M+).

reactant | t-butyl 1-(2-fluoro-4-nitrophenyl)cyclopropane-1-carboxylate | 110 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])C1(CC1)C(=O)OC(C)(C)C | C14H16FNO4
catalyst | palladium | 11 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | t-butyl 1-(4-amino-2-fluorophenyl)cyclopropane-1-carboxylate | NC1=CC(=C(C=C1)C1(CC1)C(=O)OC(C)(C)C)F | C14H18FNO2
